US05134142
A mixture of 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylic acid (13.5 g) and thionyl chloride (10 ml) in dichloroethane (30 ml) was refluxed for 1 hour. The mixture was concentrated to give an oil of 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carbonyl chloride.

reactant | 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylic acid | 13.5 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(=O)O | C17H13FN2O2S
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
product | 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carbonyl chloride | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(=O)Cl | C17H12ClFN2OS
